US08471027B2
A solution of 3-fluoro-4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (890 mg, 2.36 mmol) in methanol (59.1 mL) and ethyl acetate (59.1 mL) at 25° C. was treated with platinum(IV) oxide (26.8 mg, 118 μmol). The reaction was stirred under a balloon of hydrogen gas for 18 h. At this time, the reaction was filtered through a pad of Celite® and was rinsed with a solution of 10% methanol/methylene chloride (3×75 mL). The filtrate was concentrated in vacuo to afford 3-fluoro-4-[3-oxo-3-(2-phenylamino-pyridin-3-yl)-propyl]-benzoic acid methyl ester (860 mg, 96.2%) as a dark green solid. The material was used without further purification.

reactant | 3-fluoro-4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 2.36 mmol, 890 mg | COC(C1=CC(=C(C=C1)\C=C\C(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)F)=O | C22H17FN2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 59.1 mL | CO | CH4O
solvent | ethyl acetate | 59.1 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide | 118 μmol, 26.8 mg | [Pt](=O)=O
product | 3-fluoro-4-[3-oxo-3-(2-phenylamino-pyridin-3-yl)-propyl]-benzoic acid methyl ester | 860 mg, 96.2% | COC(C1=CC(=C(C=C1)CCC(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)F)=O | C22H19FN2O3
